US09359338B2
Step 1: Synthesis of tert-butyl N-[4-[(2-chloro-4-pyridyl)oxy]-2-fluoro-phenyl]carbamate
Dissolve tert-butyl N-(2-fluoro-4-hydroxy-phenyl)carbamate (10.47 g, 46.1 mmol) in N-methyl-2-pyrrolidone (NMP, 100 mL), add t-BuOK (5.67 g, 50.5 mmol) and stir at 0° C. for 30 min. Add 2-chloro-4-fluoropyridine (5.5 g, 41.9 mmol), then stir at 70° C. under N2 for 12 hrs. Quench the reaction with water, extract with EtOAc (300 mL×3), combine the organic layers, wash with brine (300 mL×2), dry over anhydrous Na2SO4. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:4) affords the title compound (11.23 g, 79.5%). MS: (M+1): 339.

reactant | tert-butyl N-(2-fluoro-4-hydroxy-phenyl)carbamate | 46.1 mmol, 10.47 g | FC1=C(C=CC(=C1)O)NC(OC(C)(C)C)=O | C11H14FNO3
reactant | t-BuOK | 50.5 mmol, 5.67 g | CC(C)(C)[O-].[K+]
reactant | 2-chloro-4-fluoropyridine | 41.9 mmol, 5.5 g | ClC1=NC=CC(=C1)F | C5H3ClFN
solvent | N-methyl-2-pyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl N-[4-[(2-chloro-4-pyridyl)oxy]-2-fluoro-phenyl]carbamate | 11.23 g, 79.5% | ClC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)F | C16H16ClFN2O3
